US07732504B2
23.5 g (0.078 mol) 2-[(4-aminophenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone are reacted with ethanol amine (33.4 g, 0.55 mol) under conditions as described for example 1.2. The crude product obtained is purified by first by filtration over silica gel using hexane/ethyl acetate 1:1→ethyl acetate as the eluent, followed by flash chromatography on silica gel (eluant: ethyl acetate). 10.2 g (37%) 2-[(4-aminophenyl)methyl]-1-[4-(2-hydroxyethyamino)phenyl]-2-dimethylamino-1-butanone are obtained as a viscous yellow oil.

reactant | 2-[(4-aminophenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone | 0.078 mol, 23.5 g | NC1=CC=C(C=C1)CC(C(=O)C1=CC=C(C=C1)F)(CC)N(C)C | C19H23FN2O
reactant | ethanol amine | 0.55 mol, 33.4 g | C(O)CN | C2H7NO
product | 2-[(4-aminophenyl)methyl]-1-[4-(2-hydroxyethyamino)phenyl]-2-dimethylamino-1-butanone | 10.2 g, 37% | NC1=CC=C(C=C1)CC(C(=O)C1=CC=C(C=C1)NCCO)(CC)N(C)C | C21H29N3O2
